US06498251B1
Synthesis Example 46c 3-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
5-t-Butoxycarbonyl-3-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (150 mg, 0.49 mmol) was dissolved in chloroform (1 ml), and the solution was mixed with hydrochloric acid methanol solution (2 ml), stirred at room temperature for 8 hours, further mixed with concentrated hydrochloric acid (1 ml) and stirred for 16 hours. The solvent was removed by evaporation from the reaction solution under a reduced pressure, and the thus obtained residue was mixed with 47% hydrobromic acid (6 ml) and stirred at 140° C. for 4 hours. The reaction solution was returned to room temperature and alkalified by adding sodium hydroxide aqueous solution and then the reaction product was extracted there from with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried with anhydrous magnesium sulfate, and then the solvent was removed by evaporation under a reduced pressure to obtain 68 mg (0. 44 mmol, 90% in yield) of the title compound. MW 153.24 (C8H11NS); Mass spectrum EI-MS m/z 153 (M)+.

reactant | 5-t-Butoxycarbonyl-3-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 0.49 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC=C2C | C13H19NO2S
reactant | hydrochloric acid methanol | 2 ml | CO.Cl
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | CC1=CSC2=C1CNCC2 | C8H11NS
